US04010177
In the manner given in Preparation 25, 8-chloro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is treated with (cyclopropylmethyl)amine in tetrahydrofuran at room temperature to give 8-chloro-1-[[(cyclopropylmethyl)amino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 29 8 -Chloro-1-[[(cyclopropylmethyl)methylamino]methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8-chloro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1 | C17H11Cl3N4
reactant | (cyclopropylmethyl)amine | C1(CC1)CN | C4H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-chloro-1-[[(cyclopropylmethyl)amino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCC3CC3)C3=C(C=CC=C3)Cl)C1 | C21H19Cl2N5
